US08669266B2
(ii) 4-Acetoxy-naphthalene-2-carboxylic acid ethyl ester
To a solution of 24 g of 2-Benzylidene-malonic acid diethyl ester in 60 ml of acetic acid anhydride, 7.5 g sodium acetate was added and the reaction mixture was heated to reflux for 5 h. After cooling to RT the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic phases were washed three times with saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step.

reactant | 2-Benzylidene-malonic acid diethyl ester | 24 g | C(C)OC(C(C(=O)OCC)=CC1=CC=CC=C1)=O | C14H16O4
reactant | sodium acetate | 7.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-Acetoxy-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=CC=CC=C2C(=C1)OC(C)=O | C15H14O4
